US08802695B2
(R)-4-(1,2-dihydroxypropan-2-yl)-N-(1-ethyl-1H-pyrrolo[3,2-c]pyridin-6-yl)-3-methylbenzamide
To N-(1-ethyl-1H-pyrrolo[3,2-c]pyridin-6-yl)-3-methyl-4-(prop-1-en-2-yl)benzamide (100 mg, 0.31 mmol) and methanesulfonamide (30 mg, 0.31 mmol) were added t-BuOH (1.6 mL). The mixture was cooled in ice bath, and then water (1.6 mL) and AD-mix-beta (550 mg, 0.39 mmol) were added to give a bi-phase orange solution. The reaction was stirred at 0° C. with slow warming to room temperature overnight. The mixture was again cooled in ice bath the next day, and a total of 500 mg of AD-mix-beta was added. No further conversion was observed after 6 hours. To the reaction mixture cooled in ice bath was added 120 mg of sodium sulfite. After being stirred for 20 min, the mixture was charged with brine (5 ml) and the mixture was extracted with EtOAc (2×5 ml). Combined organic layers were washed once with 2N KOH (5 ml) and then once with brine (5 ml). The organic layers were dried over Na2SO4, filtered, and concentrated. 1H NMR (DMSO-d6) δ: 10.47 (br. s., 1H), 8.65 (br. s., 1H), 8.29 (br. s., 1H), 7.81 (d, J=8.3 Hz, 2H), 7.56 (d, J=8.1 Hz, 1H), 7.48 (d, J=3.3 Hz, 1H), 6.58 (d, J=3.0 Hz, 1H), 4.91 (s, 1H), 4.76 (br. s., 1H), 4.16-4.28 (m, 2H), 3.60 (br. s., 2H), 2.59 (s, 3H), 1.48 (s, 3H), 1.39 (t, J=7.2 Hz, 3H); ESI-MS: m/z 354 (M+H)+.

reactant | N-(1-ethyl-1H-pyrrolo[3,2-c]pyridin-6-yl)-3-methyl-4-(prop-1-en-2-yl)benzamide | 0.31 mmol, 100 mg | C(C)N1C=CC=2C=NC(=CC21)NC(C2=CC(=C(C=C2)C(=C)C)C)=O | C20H21N3O
reactant | methanesulfonamide | 0.31 mmol, 30 mg | CS(=O)(=O)N | CH5NO2S
reactant | AD-mix-beta | 0.39 mmol, 550 mg | CC[C@H]1CN2CC[C@H]1C[C@@H]2[C@H](C3=C4C=C(C=CC4=NC=C3)OC)OC5=NN=C(C6=CC=CC=C65)O[C@H]([C@H]7C[C@@H]8CCN7C[C@@H]8CC)C9=C1C=C(C=CC1=NC=C9)OC | C48H54N6O4
reactant | AD-mix-beta | 500 mg | CC[C@H]1CN2CC[C@H]1C[C@@H]2[C@H](C3=C4C=C(C=CC4=NC=C3)OC)OC5=NN=C(C6=CC=CC=C65)O[C@H]([C@H]7C[C@@H]8CCN7C[C@@H]8CC)C9=C1C=C(C=CC1=NC=C9)OC | C48H54N6O4
reactant | sodium sulfite | 120 mg | S(=O)([O-])[O-].[Na+].[Na+]
reactant | brine | 5 ml | [Cl-].[Na+].O
solvent | water | 1.6 mL | O | H2O
solvent | t-BuOH | 1.6 mL | CC(C)(C)O | C4H10O
product | (R)-4-(1,2-dihydroxypropan-2-yl)-N-(1-ethyl-1H-pyrrolo[3,2-c]pyridin-6-yl)-3-methylbenzamide | OC[C@](C)(O)C1=C(C=C(C(=O)NC2=CC3=C(C=N2)C=CN3CC)C=C1)C | C20H23N3O3
